US05952362
Allyl bromide (1.36 g, 11.25 mmol) was added to a mixture of N-(2-bromo-5-nitrophenyl)methanesulfonamide (1.66 g, 5.62 mmol) and cesium carbonate (5.49 g, 16.86 mmol) in methylethylketone (20 ml). The mixture was heated to reflux for 2 hr. The mixture was cooled and poured onto water. The product was extracted into ethyl acetate (2×75 ml) and the extracts were dried (anhydrous MgSO4) and concentrated to provide 1.88 g of N-allyl-N-(2-bromo-5-nitrophenyl)methanesulfonamide which required no purification.

reactant | Allyl bromide | 11.25 mmol, 1.36 g | C(C=C)Br | C3H5Br
reactant | N-(2-bromo-5-nitrophenyl)methanesulfonamide | 5.62 mmol, 1.66 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])NS(=O)(=O)C | C7H7BrN2O4S
reactant | cesium carbonate | 16.86 mmol, 5.49 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methylethylketone | 20 ml | CC(=O)CC | C4H8O
product | N-allyl-N-(2-bromo-5-nitrophenyl)methanesulfonamide | 1.88 g | C(C=C)N(S(=O)(=O)C)C1=C(C=CC(=C1)[N+](=O)[O-])Br | C10H11BrN2O4S
